2200-06-02 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Received Valium 5mg x3 by request.  Complained once of
   hallucinations, agitated at times.
   - Received Maalox x1
   - Requested albuterol inhaler at bedside
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Diazepam (Valium) - [**2200-6-2**] 04:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-6-2**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 70 (43 - 73) bpm
   BP: 127/73(83) {103/57(69) - 127/85(92)} mmHg
   RR: 18 (15 - 20) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
             Total In:
                                                                     26 mL
                                                                    971 mL
   PO:
             TF:
   IVF:
                                                                     26 mL
                                                                    971 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    700 mL
   Urine:
   700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     26 mL
                                                                    271 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   SpO2: 95%
   ABG: /// 14/
   Physical Examination
   GENERAL: WDWN, mildly agitated, occasional non-productive cough,
   stating he cannot breath. Oriented x3.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.  Mucosa mildly
   dry.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. + Expiratory wheezes b/l, no
   crackles or rhonchi.  Decreased breath sounds at bilateral bases,
   difficult to assess w/ patient position
   ABDOMEN: Obese, soft, non-tender, non-distended.
   EXTREMITIES: No c/c/e. 2+ edema in LE b/l to just above knees,
   symmetric and pitting
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ DP/PT obscured by edema but dopplerable
   Left: Carotid 2+  DP/PT obscured by edema but dopplerable
   Labs / Radiology
    138
   9.5
   109
   2.4
    14
    5.4
   42
   89
   121
   28.0
   7.3
        [image002.jpg]
   [**2200-6-2**]:
   Chem7
                                     125
                               [image004.gif]
                                     90
                               [image004.gif]
                                     42
   [image006.gif]
   121
                                                                   AGap=18
   [image007.gif]
   4.3
                               [image004.gif]
                                     21
                               [image004.gif]
                                     2.1
   [image009.gif]
   CK: 266
   MB: 13
   MBI: 4.9
   Trop-T: 0.09
   Comments:
   cTropnT: Ctropnt > 0.10 Ng/Ml Suggests Acute Mi
   Ca: 7.6 Mg: 1.0 P: 4.1
   CBC
   91
                                                                       5.8
                                                            [image009.gif]
                                     7.7
   [image006.gif]
   103
                 [image010.gif]
   [image006.gif]
                                    22.6
   [image009.gif]
   PT: 17.5
   PTT: 66.6
   INR: 1.6
   Comments:
   PT: Hemolyzed Specimen
                             [**2200-6-1**]  07:50 PM
   WBC
   7.3
   Hct
   28.0
   Plt
    138
   Cr
   2.4
   TropT
    0.13
   Glucose
   109
   Other labs: PT / PTT / INR:16.4/35.6/1.5, CK / CKMB / Troponin-T:415//
   0.13, ALT / AST:22/56, Alk Phos / T Bili:110/0.3, LDH:522 IU/L,
   Mg++:1.2
   Assessment and Plan
   59 yo M with PMH of systolic CHF, known pleural effusions, admitted
   with worsening shortness of breath and LE swelling x 1 month.
   .
   #  DYSPNEA: Primary complaint on admission.  Likely related to
   recurrent pleural effusion, bradycardia, hypoalbuminemia [**12-30**] poor
   nutrition and some element of medication noncompliance which may be
   worsening his COPD control.  No e/o of decompensated heart failure on
   exam or CXR, BNP lower than prior baseline.  Could consider ACS but no
   chest pressure. Bradycardia resolved ON w/ HR 70-80s
   - Continue Albuterol, Tiotroprium and Salmeterol-Fluticasone; start
   scheduled Albuterol
   - Supplemental oxygen
   - Consider thoracentesis for symptomatic benefit today
   .
   #  Systolic CHF: Unclear etiology, though likely some component of
   alcohol cardiomyopathy and possibly some tachy-myopathy.  No h/o
   ischemia. EF 35%. BNP > 15,000 but lower than prior admission.  JVP not
   elavated and no e/o CXR.  Pulmonary exam with diminished sounds at
   bases [**12-30**] effusions, which may be due to CHF.  LE edema likely
   multifactorial and not [**Last Name (un) 6759**] attributable to CHF
   - Held BP medications given normotensive (Hydralazine / Imdur) o/n
   can restart this AM
   - Hold Diltiazem / Metoprolol given bradycardia yesterday. But will
   reconsider restarting beta blocker (low dose) if HR continues to be
   stable.
   - Hold Lasix given mild hypovolemia
   - Daily ASA
   .
   #  CORONARIES: No prior cardiac catheterization.  No prior ischemic
   events. No plan to cath at this time.
   - ASA daily
   .
   #  PUMP: History of Systolic CHF; Ef = 30%.  NO e/o volume overload at
   this time.
   .
   #  RHYTHM: Atrial fibrillation with decreased ventricular response.
   - Hold rate controlling agents given bradycardia
   .
   #  ARF: Unclear etiology.  Worsened from prior baseline.  Appears
   intravascularly dry on exam. CXR without volume overload.  Denies any
   dsyuria.
   - FeNa 1%
   - IVF o/n and Cr trend improved slightly.
   - Will continue to trend Cr
   .
   #  Anion Gap Metabolic Acidosis: With elevated lactate, low
   bicarbonate. On prior admission, resolved with fluid resuscitation.
   Some component of dehydration.  Lactate may be related to poor liver
   function.
   - Responded well to fluid resuscitate. Will trial PO today.
   - Trend lactate
   - Monitor labs
   .
   #  Alcohol Abuse: Reported h/o DTs with seizures.  Patient states
   seizures are unrelated and he gets them when he's 'hot and cold.
   description suggestive of rigors vs. seizures.  SW consult ordered
   today
   - MVI, thiamine, folate
 f/u labs
   - CIWA with Valium
   - Seizure / aspiration precautions
   .
   #  Anemia: Normocytic and similar to prior levels.  No e/o acute blood
   loss, patient refused rectal exam in ED.
   - Trend, if worsens will T&C
   .
   # Atrial fibrillation - Rate well-controlled on diltiazem and
   metoprolol. Continued aspirin. Coumadin therapy deferred due to
   patient preference and concerns regarding  medication and
   monitoring noncompliance.
   - Rate &0s, well controlled this morning
   .
   # Diabetes mellitus type II - On Metformin in [**Last Name (LF) **], [**First Name3 (LF) **] be contributing
   to Lactic acidosis.
   - ISS with FS QACHS
   - Hold Metformin
   .
   # Chronic Obstructive Pulmonary Disease - Complaining of dyspnea as
   above, likely multifactorial.
   - Continue Advair, Spiriva, and Albuterol prn.
   .
   #  Hyponatremia / Hypochloremia: Suspect [**12-30**] hypovolemia and
   malnutrition from chronic alcoholism.  Calculated sodium deficit
   recommends 160cc/hr of NS x 16 hours to reach 130; will give more
   slowly given CHF
   - Continue IV NS (~75cc/hr) to replete sodium
   - Continue to monitor labs; recheck lytes
   .
   # Abdominal Pain: Patient stated pain is diffuse and chronic but
   resolved o/n.  Also with some nausea prior to admission w/ some
   sputum/clear fluid emesis this AM.
   - Zofran PRN nausea
   .
   #  Thrombocytopenia: New thrombocytopenia.  [**Month (only) 60**] represent overall poor
   hepatic function.
   - Trend, avoid medications that worsen
   .
   #  Elevated INR: Concerning for worsened hepatic function; also with
   likely some element of malnutrition.
   - Trend coagulopathy
   .
   # Recurrent left pleural effusion -  Previously evaluated for this.  On
   last admission, underwent left-sided diagnostic and therapeutic
   thoracentesis on [**2200-4-14**] with removal of 2.3L transudative fluid.
   Cytology negative for malignant cells. Attributed to chronic systolic
   CHF and medication noncompliance. Added hydralazine and isosorbide for
   better afterload reduction. Adequate room air ambulatory oxygen
   saturation prior to discharge.  Now readmitted with worsened effusion,
   dyspnea and new O2 requirement.
   - Consider thoracentesis today
   .
   # Mediastinal lymphadenopathy/pulmonary nodules -  Noted on prior
   admission, recommended follow-up CT in 3 months.
   .
   ICU Care
   Nutrition: Gentle IVF/replete Mg/regular diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-6-1**] 10:34 PM
   20 Gauge - [**2200-6-1**] 10:35 PM
   Prophylaxis:
   DVT: IV Heparin
   Stress ulcer: Omeprazole 20mg Qdaily
   Pain:
   Bowels: Docusate PRN
   VAP:
   Comments:
   Communication:  Comments: Pt states there is no one he would like us to
   call
   Code status: Full code
   Disposition: Call out to floor

2200-06-03 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -RN unable to place foley.  Attempted to place 12Fr Foley but unable to
   advance beyond prostatic urethra.  Attempted again with 12Fr Coude and
   was again unsuccessful at placing foley.  Will need Urology c/s in AM
   to help with foley placement.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Albuterol 0.083% Neb Soln
   Albuterol Inhaler
   Aspirin
   Diazepam
   Fluticasone-Salmeterol Diskus (250/50) FoLIC Acid
   Furosemide
   Heparin
   HydrALAzine
   Insulin
   Ipratropium Bromide Neb Tartrate
   Multivitamins
   Omeprazole
   Thiamine
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-6-3**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35
C (95
   HR: 95 (74 - 100) bpm
   BP: 124/79(90) {118/61(77) - 164/109(113)} mmHg
   RR: 21 (13 - 30) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
             Total In:
                                                                  1,564 mL
                                                                    146 mL
   PO:
             TF:
   IVF:
                                                                  1,564 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                      0 mL
   Urine:
                                                                  1,100 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    264 mL
                                                                    146 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 93%
   ABG: 7.23/53/81.[**Numeric Identifier 607**]/19/-5
   PaO2 / FiO2: 81
   Physical Examination
   GENERAL:  agitated, swearing at RN. Oriented x3.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa.  Mucosa mildly dry.
   NECK: Supple with no appreciable JVP.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g  No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. DECREASED BS ON LEFT WITH DIFFUSE
   RONCHI OTHERWISE
   ABDOMEN: Soft, non- tender to palpation without localization.
   EXTREMITIES: No c/c. 1+ edema in LE b/l to mid-thigh
   Labs / Radiology
   95 K/uL
   9.3 g/dL
   164 mg/dL
   1.7 mg/dL
   19 mEq/L
   4.4 mEq/L
   41 mg/dL
   92 mEq/L
   126 mEq/L
   28.3 %
   12.0 K/uL
        [image002.jpg]
                             [**2200-6-1**]  07:50 PM
                             [**2200-6-2**]  05:41 AM
                             [**2200-6-2**]  01:40 PM
                             [**2200-6-2**]  08:59 PM
                             [**2200-6-2**]  09:07 PM
                             [**2200-6-3**]  03:44 AM
   WBC
   7.3
   5.8
   10.3
   12.0
   Hct
   28.0
   22.6
   25.1
   31.2
   28.3
   Plt
    138
   103
   105
   95
   Cr
   2.4
   2.1
   1.8
   1.7
   1.7
   TropT
    0.13
   0.09
   0.07
   0.07
   0.05
   TCO2
   23
   Glucose
   109
   121
   105
   129
   164
   Other labs: PT / PTT / INR:17.5/66.6/1.6, CK / CKMB /
   Troponin-T:216/11/0.05, ALT / AST:27/55, Alk Phos / T Bili:127/0.4,
   Lactic Acid:1.5 mmol/L, Albumin:2.5 g/dL, LDH:522 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.5 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 .H/O CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS,
   EMPHYSEMA) WITH ACUTE EXACERBATION
 .H/O ATRIAL FIBRILLATION (AFIB)
 .H/O ALCOHOL ABUSE
   59 yo M with PMH of systolic CHF, hx of transudative pleural effusions,
   admitted with bradycardia and acute on chronic CHF initially managed
   with fluid resulting in worsening heart failure transferred to MICU for
   hypoxia.
   .
   # DYSPNEA/HYPOXIA: Physical exam on presentation to CCU interpreted as
   intravascular depletion b/c no JVP and no signs of pulm vasc
   congestion. That said, multiple other findings pointing to acute on
   chronic CHF. Failure of initial mgt with fluid resuscitation (2L)
   supports this as evidenced by worsened CXR and oxygen requirement.
   Also evidence of PNA on CXR.
   - Continue Albuterol, Ipratropium and Salmeterol-Fluticasone
   - If worsening resp status will need to intubate.
   - diuresis with lasix bolus + drip goal out 2L+ per day.
   - CAP: start ceftriaxone, azithromycin and vanco (given hx of MRSA).
   .
   # Systolic CHF: Unclear etiology, though likely some component of
   alcohol cardiomyopathy and possibly some tachy-myopathy per cards. No
   h/o ischemia. BNP > 15,000, that it is somewhat lower than prior
   admissions is likely of little significance.
   - restart afterload reduction with hydralazine (unclear why he is not
   on an [**Name (NI) **], no allergy listed); hold long acting nitrate
   - Metoprolol restarted for rate control and improved diastolic filling
   time
   - diuresis as above  (-2L goal)
   .
   # Alcohol Abuse: Reported h/o DTs with seizures. ETOH on admission 205
   - MVI, thiamine, folate; check B12
   - CIWA with Valium
   - SW consult
   - Seizure / aspiration precautions
   # Recurrent left pleural effusion - Previously evaluated for this. On
   last admission, underwent left-sided diagnostic and therapeutic
   thoracentesis on [**2200-4-14**] with removal of 2.3L transudative fluid.
   Cytology negative for malignant cells. Attributed to chronic systolic
   CHF and medication noncompliance. Added hydralazine and isosorbide for
   better afterload reduction. Adequate room air ambulatory oxygen
   saturation prior to discharge. Now readmitted with worsened effusion,
   dyspnea and new O2 requirement.
   - Continue diuresis
   .
   # CORONARIES: No prior cardiac catheterization. No prior ischemic
   events.
   - ASA daily (DMII)
   .
   # RHYTHM: Atrial fibrillation initially with decreased ventricular
   response, now HR in 80-90 range.
   - continue holding dilt, restarted metoprolol
   - no coumadin per previously expressed pt preference, continue ASA 325
   daily
   .
   # ARF: Attributed to hypovolemia on admission; more likely to poor
   forward flow in setting of fluid overload; may have been exacerbated by
   bradycardia. Improving. Continue to monitor.
   .
   # Anemia: Normocytic and similar to prior levels. No e/o acute blood
   loss, patient refused rectal exam in ED.
   - Trend, if worsens will T&C
   - Guaiac stools
   .
   # Diabetes mellitus type II
   - ISS with FS QACHS
   - Hold Metformin
   .
   # Chronic Obstructive Pulmonary Disease - Complaining of dyspnea as
   above, likely multifactorial.
   - Continue Advair, and Albuterol prn. Ipratrop over Spiriva as inpt
   .
   # Hyponatremia / Hypochloremia: Beer potomania? Could also be from poor
   forward flow in setting of acute on chronic CHF or liver dz;
   hypovolemic hyponatremia.
   .
   # Thrombocytopenia: New thrombocytopenia. [**Month (only) 60**] represent overall poor
   hepatic function.
   - Trend, avoid medications that worsen
   .
   # Elevated INR: Concerning for worsened hepatic function; also with
   likely some element of malnutrition.
   - Trend coagulopathy
   .
   # Mediastinal lymphadenopathy/pulmonary nodules - Noted on prior
   admission, recommended follow-up CT in 3 months.
   .
   FEN: Gentle IVF / replete Mg / NPO
   .
   ACCESS: PIV
   .
   PROPHYLAXIS:
   -DVT ppx with SQH, pending troponin downward trending
   -Bowel regimen with Docusate PRN
   CODE: FULL CODE (confirmed on admission)
   COMM: Pt states there is nobody he would like us to call
   DISPO: ICU
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-6-2**] 10:42 PM
   Prophylaxis:  SC Heparin; SCD
   DVT: SCD
s SC Heparin
   Stress ulcer: omeprazole
   VAP:  n/a
   Comments:
   Communication: with Patient Comments:
   Code status: Full code
   Disposition: MICU

2200-06-04 05:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2200-6-3**] 12:20 PM
 SPUTUM CULTURE - At [**2200-6-3**] 04:10 PM
 URINE CULTURE - At [**2200-6-3**] 04:10 PM
 ARTERIAL LINE - START [**2200-6-3**] 05:02 PM
 MULTI LUMEN - START [**2200-6-3**] 07:03 PM
   -CIWA stopped
   -started on vanc, ceftriaxone, and azithro
   -foley placed
   -intubated
   -a-line placed
   -went up to 10 of PEEP
   -central line placed (L IJ)
   -gave a 500 cc bolus of fluid [**12-30**] decreased pressures and decreased UOP
   (10ml/hr) - pressures resolved and UOP up to 30 cc/hr
   -Hct trending down - gave 1 unit of blood and ordered hemolysis labs -
   also will recheck HCT with AM labs
   -decreased Fi02 to 50%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2200-6-3**] 02:07 PM
   Azithromycin - [**2200-6-3**] 02:27 PM
   Vancomycin - [**2200-6-3**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-6-4**] 12:01 AM
   Midazolam (Versed) - [**2200-6-4**] 02:50 AM
   Fentanyl - [**2200-6-4**] 02:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-6-4**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 104 (82 - 121) bpm
   BP: 112/63(75) {85/46(57) - 125/78(93)} mmHg
   RR: 19 (10 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 72 Inch
    CVP: 11 (7 - 15)mmHg
   Total In:
                                                                  2,647 mL
                                                                    308 mL
   PO:
   TF:
   IVF:
                                                                  2,617 mL
                                                                     28 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                    615 mL
                                                                    160 mL
   Urine:
                                                                    615 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,032 mL
                                                                    148 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 33 cmH2O
   Plateau: 19 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.33/47/182/23/-1
   Ve: 10.2 L/min
   PaO2 / FiO2: 455
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   82 K/uL
   8.0 g/dL
   95 mg/dL
   1.7 mg/dL
   23 mEq/L
   4.2 mEq/L
   47 mg/dL
   95 mEq/L
   125 mEq/L
   23.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2200-6-3**]  03:44 AM
                             [**2200-6-3**]  11:41 AM
                             [**2200-6-3**]  03:19 PM
                             [**2200-6-3**]  05:04 PM
                             [**2200-6-3**]  06:22 PM
                             [**2200-6-3**]  06:28 PM
                             [**2200-6-3**]  09:56 PM
                             [**2200-6-3**]  10:18 PM
                             [**2200-6-4**]  04:16 AM
                             [**2200-6-4**]  04:34 AM
   WBC
   12.0
   7.0
   6.7
   5.9
   5.7
   Hct
   28.3
   23.3
   23.4
   21.4
   23.7
   Plt
   95
   70
   84
   78
   82
   Cr
   1.7
   1.7
   1.7
   TropT
   0.05
   TCO2
   22
   25
   24
   25
   26
   Glucose
   164
   194
   95
   Other labs: PT / PTT / INR:17.5/66.6/1.6, CK / CKMB /
   Troponin-T:216/11/0.05, ALT / AST:15/21, Alk Phos / T Bili:79/0.4,
   Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL, LDH:522 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   59 yo M with PMH of systolic CHF, hx of transudative pleural effusions,
   admitted with bradycardia and acute on chronic CHF initially managed
   with fluid resulting in worsening heart failure transferred to MICU for
   hypoxia.
   .
   # Dyspnea / Hypoxia
 likely CHF exacerbation and CAP
   - will continue albuterol and ipratropium
   - pt was intubated yesterday secondary to worsening respiratory status
   (now on CMV with PEEP of 10 and FiO2 50%)
   - UOP was low earlier in the day; picked up when he was given a bolus
   of fluid for hypotension
   - for his CAP, the patient is on ceftriaxone, azithromycin and vanco
   (given hx of MRSA).
   .
   # Systolic CHF
   - unclear etiology (per cards, possibly some component of alcohol
   cardiomyopathy and possibly some tachy-myopathy)
   - continue hydralazine and metoprolol; possibly start him on an [**Name (NI) **]
   - pt
s nitrate was held
   .
   # Alcohol Abuse
 Reported h/o DTs with seizures. ETOH on admission 205
   - MVI, thiamine, folate
   - will re-check B12
   - Stopped CIWA because pt was snowed
   - F/u social work recs
   - Seizure/aspiration precautions
   # Recurrent left pleural effusion
 was tapped in [**4-5**] and found to be
   transudative in nature
   - CXR today basically unchanged from yesterday
   - Continue diuresis
   .
   # RHYTHM: Atrial fibrillation initially with decreased ventricular
   response, now HR in 80-90 range.
   - continue holding dilt, restarted metoprolol
   - no coumadin per previously expressed pt preference, continue ASA 325
   daily
   .
   # ARF: Attributed to hypovolemia on admission; more likely to poor
   forward flow in setting of fluid overload; may have been exacerbated by
   bradycardia. Improving. Continue to monitor.
   .
   # Anemia: Normocytic and similar to prior levels. No e/o acute blood
   loss, patient refused rectal exam in ED.
   - Trend, if worsens will T&C
   - Guaiac stools
   .
   # Diabetes mellitus type II
   - ISS with FS QACHS
   - Hold Metformin
   .
   # Chronic Obstructive Pulmonary Disease - Complaining of dyspnea as
   above, likely multifactorial.
   - Continue Advair, and Albuterol prn. Ipratrop over Spiriva as inpt
   .
   # Hyponatremia / Hypochloremia: Beer potomania? Could also be from poor
   forward flow in setting of acute on chronic CHF or liver dz;
   hypovolemic hyponatremia.
   .
   # Thrombocytopenia: New thrombocytopenia. [**Month (only) 60**] represent overall poor
   hepatic function.
   - Trend, avoid medications that worsen
   .
   # Elevated INR: Concerning for worsened hepatic function; also with
   likely some element of malnutrition.
   - Trend coagulopathy
   .
   # Mediastinal lymphadenopathy/pulmonary nodules - Noted on prior
   admission, recommended follow-up CT in 3 months.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2200-6-2**] 10:42 PM
   Arterial Line - [**2200-6-3**] 05:02 PM
   Multi Lumen - [**2200-6-3**] 07:03 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU